US04075221
In the manner given in Example 1, a solution of 8-trifluoromethyl-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetrapropyldiaminomethane and acetyl chloride (in 0.1 molar excess compared to the N,N,N',N'-tetrapropyldiaminomethane) are reacted together to give 8-trifluoromethyl-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4-]benzodiazepine.

reactant | 8-trifluoromethyl-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=NC=CC=C3)C1)(F)F | C17H12F3N5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-trifluoromethyl-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4-]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(CCC)CCC)C3=NC=CC=C3)C1)(F)F | C24H27F3N6
